US04863503
Sodium hydride (3.05 g, 50% dispersion in oil, 64 mmol) was washed with 40°-60° C. petroleum ether and then suspended in dry DMF (30 ml) under an atmosphere of nitrogen. A solution of methyl (1-methylpyrrol-2-yl)acetate (5 g, 32 mmol) and methyl formate (39.5 ml, 64 mmol) in DMF (10 ml) was then added dropwise at room temperature with vigorous stirring. After 3 hours, the reaction mixture was poured into 10% aqueous potassium carbonate (100 ml) and extracted with ether (2×100 ml). The aqueous layer was treated with concentrated hydrochloric acid and re-extracted with ether (2×100 ml). The combined ether layers were dried and evaporated to give methyl 3-hydroxy-2-(1-methylpyrrol-2-yl)propenoate (5.4 g) as an orange oil which was used without further purification.

reactant | Sodium hydride | 64 mmol, 3.05 g | [H-].[Na+]
reactant | methyl (1-methylpyrrol-2-yl)acetate | 32 mmol, 5 g | CN1C(=CC=C1)CC(=O)OC | C8H11NO2
reactant | methyl formate | 64 mmol, 39.5 ml | C(=O)OC | C2H4O2
reactant | potassium carbonate | 100 ml | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | methyl 3-hydroxy-2-(1-methylpyrrol-2-yl)propenoate | 5.4 g | OC=C(C(=O)OC)C=1N(C=CC1)C | C9H11NO3
